US04609650
16β-Ethyl-17β-(N-t-butoxycarbonylglycyloxy)acetoxy-4-estren-3-one
In a mixture of 40 ml of acetone and 8 ml of water is dissolved 0.7 g of N-t-butoxycarbonylglycine, and 0.42 g of potassium t-butoxide is added to the solution. The mixture is stirred, followed by addition of 1.1 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one. The mixture is refluxed for 12 hours. The solvent is then distilled off under reduced pressure and the residue is extracted with 150 ml of ethyl acetate. The organic layer is washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is distilled off and the residue is dissolved in a small amount of diisopropyl ether-n-hexane (1:1) and chromatographed on a silica gel column. Following passage of 100 ml of diisopropyl ether, elution is carried out with 400 ml of ethyl acetate. The eluate is evaporated under reduced pressure to remove the solvent, giving 1.2 g of the above-identified compound as a viscous oil.

reactant | N-t-butoxycarbonylglycine | 0.7 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | potassium t-butoxide | 0.42 g | CC(C)([O-])C.[K+]
reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 1.1 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 8 ml | O | H2O
product | 16β-Ethyl-17β-(N-t-butoxycarbonylglycyloxy)acetoxy-4-estren-3-one | 1.2 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CNC(=O)OC(C)(C)C)=O)=O | C29H43NO7
